US09023849B2
Methyl 2-{3-[1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate
374 mg (1.985 mmol) of dimethyl 2,2-dimethyl-3-oxobutanedioate were initially charged in 8 ml of ethanol and heated to reflux. Subsequently, 420 mg (1.324 mmol) of 1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide suspended in 8 ml of ethanol were added and the mixture was heated to reflux overnight. Another 299 mg (1.588 mmol) of dimethyl 2,2-dimethyl-3-oxobutanedioate dissolved in 3 ml of ethanol were added and the mixture was boiled under reflux overnight. After cooling, the mixture was filtered and purified directly by means of preparative HPLC (eluent: acetonitrile/water, gradient 30:70→100:0). 163 mg of the target compound were obtained (purity 89%; 24% of theory).

reactant | dimethyl 2,2-dimethyl-3-oxobutanedioate | 1.985 mmol, 374 mg | CC(C(=O)OC)(C(C(=O)OC)=O)C | C8H12O5
reactant | 1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidine-3-carboximidohydrazide | 1.324 mmol, 420 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C(NN)=N)C=CC=C1F | C14H13F2N7
reactant | dimethyl 2,2-dimethyl-3-oxobutanedioate | 1.588 mmol, 299 mg | CC(C(=O)OC)(C(C(=O)OC)=O)C | C8H12O5
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | ethanol | 8 ml | C(C)O | C2H6O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | Methyl 2-{3-[1-(2,3-difluorobenzyl)-6-methyl-1H-pyrazolo[3,4-d]pyrimidin-3-yl]-5-hydroxy-1,2,4-triazin-6-yl}-2-methylpropanoate | 163 mg | FC1=C(CN2N=C(C=3C2=NC(=NC3)C)C=3N=NC(=C(N3)O)C(C(=O)OC)(C)C)C=CC=C1F | C21H19F2N7O3
